US07064123B1
3-Biphenyl-3-yl-N-cyanomethyl-2-benzylsulfonylmethyl-propionamide
3-Biphenyl-3-yl-2-benzylsulfonylmethyl-propionic acid (300 mg, 0.76 mmol), prepared as in Reference 9, was combined with EDC (300 mg, 1.57 mmol), HOBt (300 mg, 1.96 mmol), and aminoacetonitrile hydrochloride (150 mg, 1.6 mmol). Dichloromethyl (4 mL) was added and then 4-methylmorpholine (0.5 mL). The mixture was stirred at ambient temperature for 2 hours. After dilution with ethyl acetate (150 mL), the solution was washed with water (30 mL), saturated aqueous NaHCO3 solution and brine, dried with magnesium sulfate and evaporated under vacuum. The product, 3-biphenyl-3-yl-N-cyanomethyl-2-benzylsulfonylmethyl-propionamide (273 mg), was crystallized from ethyl acetate/hexane as a white solid; 1H NMR: (DMSO) 8.87 (t, J=5.5 Hz, 1H), 7.68–7.14 (m, 14H), 4.45 (d, J=13.8 Hz, 1H), 4.38 (d, J=13.8 Hz, 1H), 4.13 (m, 2H), 3.49 (dd, J=9.4 Hz, J=14.1 Hz, 1H), 3.28–3.11 (m, 1H), 3.04–2.76 (m, 3H). MS: (M++1) 433.

reactant | 3-Biphenyl-3-yl-2-benzylsulfonylmethyl-propionic acid | 0.76 mmol, 300 mg | C1(=CC(=CC=C1)CC(C(=O)O)CS(=O)(=O)CC1=CC=CC=C1)C1=CC=CC=C1 | C23H22O4S
reactant | EDC | 1.57 mmol, 300 mg
reactant | HOBt | 1.96 mmol, 300 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | aminoacetonitrile hydrochloride | 1.6 mmol, 150 mg | Cl.NCC#N
reactant | 4-methylmorpholine | 0.5 mL | CN1CCOCC1 | C5H11NO
product | 3-Biphenyl-3-yl-N-cyanomethyl-2-benzylsulfonylmethyl-propionamide | C1(=CC(=CC=C1)CC(C(=O)NCC#N)CS(=O)(=O)CC1=CC=CC=C1)C1=CC=CC=C1 | C25H24N2O3S
